US05612356
5,6,7,8-Tetrahydro-2-methoxymethoxy-5,5,8,8-tetramethylnaphthalene
10 ml of a solution of 4.0 g of 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthol in N,N-dimethylformamide was dropwise added to 70 ml of a suspension of 1.01 g of sodium hydride (604 solution in oil) in anhydrous N,N-dimethylformamide at 0° C. The obtained mixture was stirred at room temperature for one hour and cooled to 0° C., followed by the addition thereto of 5 ml of a solution of 2.36 g of chloromethyl methyl ether in N,N-dimethylformamide. The temperature of the mixture was gradually raised to room temperature (in 10 minutes). The resulting mixture was further stirred for one hour, followed by the addition thereto of 30 ml of a saturated aqueous solution of sodium hydrogencarbonate. The obtained mixture was extracted with ethyl acetate. The organic phase was washed with a saturated aqueous solution of common salt, dried over anhydrous magnesium sulfate and distilled to remove the solvent. The residue was purified by silica gel chromatography (developer: 5% ethyl acetate/n-hexane) to give 5.2 g of the title compound as a colorless oil. 1H-NMR (400 MHz, CDCl3) δ(ppm); 1.26(s, 6H), 1.29(s, 6H), 1.70(s, 4H), 3.50(s, 3H), 5.18(s, 2H), 6.87(dd, J=8.4, 2.4 Hz, 1H), 6.97(d, J=2.4 Hz, 1H), 7.23(d, J=8.4 Hz, 1H)

reactant | 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthol | 4.0 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)O)C | C14H20O
reactant | sodium hydride | 1.01 g | [H-].[Na+]
reactant | chloromethyl methyl ether | 2.36 g | COCCl | C2H5ClO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 5,6,7,8-Tetrahydro-2-methoxymethoxy-5,5,8,8-tetramethylnaphthalene | 5.2 g | COCOC1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C16H24O2
